US04101656
To a suspension of 4.9 g (14.1 mmol) of 1-(2-aminoethyl)-5-(2,4-dinitrophenylthio)tetrazole hydrochloride in 100 ml of pyridine was added 1.5 ml (2.2 g, 19.2 mmol) of methanesulfonyl chloride. The mixture was stirred for 1.5 hours, then an additional 0.5 ml of methanesulfonyl chloride was added and the mixture was stirred another hour. The pyridine was removed by evaporation and the residue was dissolved in a small volume of dimethylformamide. Water was added to the solution and the resulting precipitate was collected by filtration, washed with watr and air dried. The precipitate was dissolved in a minimum amount of dimethylformamide and the solution was diluted with ethyl acetate and treated with Darco G-60. The mixture was filtered and evaporated to dryness to give a syrupy residue which was crystallized from ethyl acetate to give 5-(2,4-dinitrophenylthio)-1-(2-methanesulfonamidoethyl)tetrazole.

reactant | 1-(2-aminoethyl)-5-(2,4-dinitrophenylthio)tetrazole hydrochloride | 14.1 mmol, 4.9 g | Cl.NCCN1N=NN=C1SC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-]
reactant | methanesulfonyl chloride | 19.2 mmol, 1.5 ml, 2.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2,4-dinitrophenylthio)-1-(2-methanesulfonamidoethyl)tetrazole | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SC1=NN=NN1CCNS(=O)(=O)C | C10H11N7O6S2
